US04093742
To 4-amino-5-(hexafluoro-2-hydroxy-2-propyl)indan (4.2g, 14 mmole, prepared from 4-aminoindan by the procedure of Gilbert, J. Org. Chem., 30, 1001 (1965), m.p. 155°-8°) in 50 ml 4:1 Et2O-hexane add ethyl isocyanate (1.3 g, 18mmole). After 1 hour filter the solid and dry to give 4.4 g N-ethyl-N'-[5-(hexafluoro-2-hydroxy-2-propyl)-4-indanyl]urea; m.p. 142°-143° C.

reactant | 4-amino-5-(hexafluoro-2-hydroxy-2-propyl)indan | NC1=C2CCCC2=CC=C1C(C(F)(F)F)(C(F)(F)F)O | C12H11F6NO
reactant | 4-aminoindan | NC1=C2CCCC2=CC=C1 | C9H11N
reactant | ethyl isocyanate | 18mmole, 1.3 g | C(C)N=C=O | C3H5NO
solvent | Et2O hexane | CCOCC.CCCCCC
product | N-ethyl-N'-[5-(hexafluoro-2-hydroxy-2-propyl)-4-indanyl]urea | 4.4 g | C(C)NC(=O)NC1=C2CCCC2=CC=C1C(C(F)(F)F)(C(F)(F)F)O | C15H16F6N2O2
